US04176184
(a) 7,7-Dimethyl-2-(4-chloro-phenyl)-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione
Prepared analogous to Example 23 from 7.5 gm of 7,7-dimethyl-2-(4-chloro phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione and 6.9 gm of 1-bromo-2-chloro-ethane.

reactant | 7,7-dimethyl-2-(4-chloro phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 7.5 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | C18H14ClN3O2
reactant | 1-bromo-2-chloro-ethane | 6.9 gm | BrCCCl | C2H4BrCl
product | 7,7-Dimethyl-2-(4-chloro-phenyl)-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(C(C2C1=O)CCCl)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | C20H17Cl2N3O2
